* C:\users\thetheos\Mes documents\Universite\BAC2\Q4.P_Elec\Ressources\allBlocks\gilbert_cell_multiplier\gilber_cell.asc
Q1 N002 N004 N010 0 2N2222
Q2 N003 N005 N010 0 2N2222
Q3 N002 N005 N008 0 2N2222
Q4 N003 N004 N008 0 2N2222
Q5 N010 N012 N014 0 2N2222
Q6 N008 N013 N014 0 2N2222
V1 V1 0 SINE(0 0.1 3000 0 0 -40)
V2 V2 0 SINE(0 0.1 3000)
V3 V3 0 10
C2 N012 V2 0.1µ
R5 V3 N002 270
R6 V3 N003 270
R7 N014 0 270
R2 N006 N011 3.3k
R8 N011 0 2.2k
R3 N011 N013 2.2k
R1 V3 N006 4.7k
R4 N006 N005 2.2k
R9 N006 N004 2.2k
C3 N006 0 0.1µ
C4 N011 0 0.1µ
C5 N005 0 0.1µ
R10 N011 N012 2.2k
R11 N001 N002 1k
C6 N001 N003 1.6µ
XU1 N007 N009 SD TL084 Aol=100K GBW=100Meg
C7 N009 0 {C}
R12 N009 V1 {1/{2*pi*fo*C}}
R13 N007 V1 10k
R14 SD N007 10k
C8 N004 SD 0.1µ
.model NPN NPN
.model PNP PNP
.lib C:\users\thetheos\Mes documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 2.1 2
.param C=3.3n fo=3k
.lib "C:\users\thetheos\Mes documents\Universite\BAC2\Q4.P_Elec\Ressources\allBlocks\TL084.lib"
;ac dec 100 10 100k
.backanno
.end
