* C:\users\thetheos\Mes documents\Universite\BAC2\Q4.P_Elec\Ressources\allBlocks\gilbert_cell_multiplier\gilber_cell.asc
Q1 Vgc+ N003 N008 0 2N2222
Q2 Vgc- N004 N008 0 2N2222
Q3 Vgc+ N004 N006 0 2N2222
Q4 Vgc- N003 N006 0 2N2222
Q5 N008 N010 N012 0 2N2222
Q6 N006 N011 N012 0 2N2222
V1 V1 0 SINE(0 0.1 3000 0 0 -40)
V2 V2 0 SINE(0 0.1 3000)
V3 V3 0 10
C2 N010 V2 0.1µ
R5 V3 Vgc+ 270
R6 V3 Vgc- 270
R7 N012 0 270
R2 N005 N009 3.3k
R8 N009 0 2.2k
R3 N009 N011 2.2k
R1 V3 N005 4.7k
R4 N005 N004 2.2k
R9 N005 N003 2.2k
C3 N005 0 0.1µ
C4 N009 0 0.1µ
C5 N004 0 0.1µ
R10 N009 N010 2.2k
R11 N001 Vgc+ 1k
C6 N001 Vgc- 1.6µ
C7 N007 0 {C}
R12 N007 V1 {1/{2*pi*fo*C}}
R13 N002 V1 10k
R14 SD N002 10k
C8 N003 SD 0.1µ
XU2 N007 N002 V++ V-- SD TL084
V4 V-- 0 -15
V5 V++ 0 15
.model NPN NPN
.model PNP PNP
.lib C:\users\thetheos\Mes documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 2.1 2
.param C=3.3n fo=3k
.lib "C:\users\thetheos\Mes documents\Universite\BAC2\Q4.P_Elec\Ressources\allBlocks\TL084.lib"
;ac dec 100 10 100k
* Opamp Current Sources
* Input signals
* Bias voltage
* Voltage sources
* pi/2 Outphaser
* Gilbert-cell
.backanno
.end
